US07790883B2
(a) 6-amino-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinol
To a stirred suspension of 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate (67.7 g) in a mixture of water (920 ml) and tetrahydrofuran (300 ml) was added aqueous sodium hydroxide solution (46-48% w/w; 24 ml) followed by water (40 ml). The resulting hazy, pale yellow solution was cooled to 20° C. before adding 2,3-difluorobenzyl bromide (83.0 g) uniformly over 25 minutes, to yield a white precipitate. The mixture was stirred at ambient temperature for 3.5 hours, the product collected and washed twice with a mixture of water (68 ml) and tetrahydrofuran (24 ml), to afford the title compound as a white solid (101.89 g).

reactant | 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 67.7 g | O.NC1=NC(=NC(=C1)O)S
reactant | sodium hydroxide | 24 ml | [OH-].[Na+]
reactant | 2,3-difluorobenzyl bromide | 83.0 g | FC1=C(CBr)C=CC=C1F | C7H5BrF2
solvent | water | 920 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | 6-amino-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinol | 101.89 g | NC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O | C11H9F2N3OS
